US05558971
To a suspension of magnesium turning (12 g) in ethyl ether (500 ml), bromobenzene (83.5 g, 0.54 mole) was added dropwise under reflux with stirring and continued to stir for 1 hour under reflux. to this Grignard reagent, benzene (500 ml) was added and concentrated until 500 ml. To this resultant mixture, a solution of diphenylsulfoxide (30 g, 0.15 mole) in benzene (200 ml) was added and reacted with stirring for 40 hours under reflux. After the reaction mixture was cooled to 0° C., 40% tetrafluoroboric acid (50 ml) was added dropwise at 0°-5° C. and reacted with stirring for 5 hours at the same temperature. After standing at room temperature overnight, the aqueous layer separated was extracted with methylene chloride (100 ml×3), the organic layer was washed with H2O, dried over anhydrous sodium sulfate and dried. The residual crude solid was recrystallized from chloroform/ethyl ether to give 28 g of triphenylsulfonium tetrafluoroborate as white crystals. m.p. 291°-292° C.

reactant | magnesium | 12 g | [Mg] | Mg
reactant | bromobenzene | 0.54 mole, 83.5 g | BrC1=CC=CC=C1 | C6H5Br
reactant | diphenylsulfoxide | 0.15 mole, 30 g | C1(=CC=CC=C1)S(=O)C1=CC=CC=C1 | C12H10OS
reactant | tetrafluoroboric acid | 50 ml | F[B-](F)(F)F.[H+]
solvent | ethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | triphenylsulfonium tetrafluoroborate | 28 g | F[B-](F)(F)F.C1(=CC=CC=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C18H15S.BF4/c1-4-10-16(11-5-1)19(17-12-6-2-7-13-17)18-14-8-3-9-15-18;2-1(3,4)5/h1-15H;/q+1;-1
